US05021420
The experiment is carried out as in Example 1, starting with 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide (4.2 g), triethylamine (2.1 cc), sodium iodide (2.2 g) and 4-(4-fluorobenzoyl)piperidine (3.1 g) in dimethylformamide (50 cc). The mixture is heated for 8 hours at boiling point, then cooled to a temperature of about 20° C. Stirring is continued for 7 hours at this temperature. After purification by flash-chromatography on a silica column, under a current of argon at medium pressure (0.5-1.5 bar) with ethyl acetate as eluant, and recrystallizatior from boiling acetonitrile (15 cc), 2-{3-[4-(4-fluorobenzoyl)piperidino]propyl}naphtho[1,8cd]isothiazole 1,1-dioxide (1.65 g) is obtained, m.p. 132° C.

reactant | 2-(3-chloropropyl)naphtho[1,8-cd]isothiazole 1,1-dioxide | 4.2 g | ClCCCN1S(C=2C3=C1C=CC=C3C=CC2)(=O)=O | C13H12ClNO2S
reactant | triethylamine | 2.1 cc | C(C)N(CC)CC | C6H15N
reactant | sodium iodide | 2.2 g | [I-].[Na+]
reactant | 4-(4-fluorobenzoyl)piperidine | 3.1 g | FC1=CC=C(C(=O)C2CCNCC2)C=C1 | C12H14FNO
solvent | dimethylformamide | 50 cc | CN(C=O)C | C3H7NO
product | 2-{3-[4-(4-fluorobenzoyl)piperidino]propyl}naphtho[1,8cd]isothiazole 1,1-dioxide | 1.65 g | FC1=CC=C(C(=O)C2CCN(CC2)CCCN2S(C=3C4=C2C=CC=C4C=CC3)(=O)=O)C=C1 | C25H25FN2O3S
